US06034248
(2S)-2'-Fluoro-2-hydroxypropiophenone (synthesized by the method disclosed in Reference Example 76: 3.36 g) was dissolved in dichloromethane (30 ml). To the resultant was added diisopropylethylamine (4.18 ml) at -60° C. under a nitrogen atmosphere, and then trifluoromethanesulfonic anhydride (4.03 ml) was added dropwise to the mixture over the period of 2 minutes. After the reaction temperature was gradually raised to -25° C., the reaction solution was stirred for 30 minutes. The reaction solution was purified by silica gel chromatography (silica gel 60 g, eluent:dichloromethane/hexane=1/1) to give (2S)-2'-fluoro-2-trifluoromethanesulfonyloxypropiophenone (5.30 g) as a pale yellow oily substance.

reactant | (2S)-2'-Fluoro-2-hydroxypropiophenone | FC1=C(C=CC=C1)C([C@H](C)O)=O | C9H9FO2
reactant | diisopropylethylamine | 4.18 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 4.03 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (2S)-2'-fluoro-2-trifluoromethanesulfonyloxypropiophenone | 5.30 g | FC1=C(C=CC=C1)C([C@H](C)OS(=O)(=O)C(F)(F)F)=O | C10H8F4O4S
